US04921855
To a solution of benzyl 2(S)-hydroxy-3-phenylpropionate (256 mg) in dry tetrahydrofuran (10 ml) was added trichloromethyl chloroformate (0.122 ml). The mixture was refluxed for 18 hours. The mixture was cooled to 0° C., and morpholine (348 mg) was added thereto. The mixture was stirred at the same temperature for 3 hours. After evaporation of the solvent, the residue was dissolved in ethyl acetate (40 ml). The solution was washed with 5% hydrochloric acid, 1M sodium bicarbonate solution and water successively, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (25% ethyl acetate in n-hexane as eluent) to give benzyl 2(S)-morpholinocarbonyloxy-3-phenylpropionate (367 mg) as an oil.

reactant | benzyl 2(S)-hydroxy-3-phenylpropionate | 256 mg | O[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C16H16O3
reactant | trichloromethyl chloroformate | 0.122 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | morpholine | 348 mg | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | benzyl 2(S)-morpholinocarbonyloxy-3-phenylpropionate | 367 mg | O1CCN(CC1)C(=O)O[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C21H23NO5
